US06900345B2
N-Boc-(2S,3S)-3-Hydroxypyrrolidine-2-carboxamide
To N-Boc-(2S,3S)-3-hydroxypyrrolidine-2-carboxylic acid (1.36 g) in DMF (6 ml) added ammonium bicarbonate (0.5 g) and dicyclohexylcarbodiimide (1.3 g). After stirring at 20° C. for 20 h the reaction was concentrated by evaporation under reduced pressure, and the residue triturated with ethyl acetate. The soluble material was purified by chromatography on silica eluting with 50-100% (5% acetic acid in diethyl ether) in hexane to give the title material as a colourless gum, (0.5 g). NMR (CD3OD) major rotamer: 1.43, (s, 9H), 1.88 (m, 1H), 2.0 (m, 1H), 3.55 (m, 2H), 4.03(s, 1H), 4.31 (bs, 1H); minor rotamer: 1.47, (s, 9H), 1.7 (m, 1H), 2.0 (m, 1H), 3.55 (m, 2H), 4.09(s, 1H), 4.34 (d, J=4 Hz, 1H).

reactant | N-Boc-(2S,3S)-3-hydroxypyrrolidine-2-carboxylic acid | 1.36 g | C(=O)(OC(C)(C)C)N1[C@@H]([C@H](CC1)O)C(=O)O | C10H17NO5
reactant | ammonium bicarbonate | 0.5 g | C([O-])(O)=O.[NH4+]
reactant | dicyclohexylcarbodiimide | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N-Boc-(2S,3S)-3-Hydroxypyrrolidine-2-carboxamide | 0.5 g | C(=O)(OC(C)(C)C)NC(=O)[C@H]1NCC[C@@H]1O | C10H18N2O4
